US05608056
To a solution of (2R,4S)-1-allyloxycarbonyl-2-carbamoylmethyl-4-(triphenylmethylthio) pyrrolidine (255 mg) in ethylene glycol dimethyl ether (5 ml) was added Lawesson's reagent (106 mg). After stirring at 50° C. for 4 hours, the solution was poured into a mixture of ethyl acetate and water, and adjusted to pH 7.0 with aqueous sodium hydrogen carbonate solution. The separated organic layer was washed with aqueous sodium chloride solution, dried over magnesium sulfate and evaporated. The residue was subjected to column chromatography on silica gel (eluent; n-hexane:ethyl acetate=2:1) to give (2R,4S)-1-allyloxycarbonyl-2-thiocarbamoylmethyl-4-(triphenyl-methylthio) pyrrolidine (130 mg).

reactant | (2R,4S)-1-allyloxycarbonyl-2-carbamoylmethyl-4-(triphenylmethylthio) pyrrolidine | 255 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(N)=O | C29H30N2O3S
reactant | Lawesson's reagent | 106 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethylene glycol dimethyl ether | 5 ml | COCCOC | C4H10O2
solvent | water | O | H2O
product | (2R,4S)-1-allyloxycarbonyl-2-thiocarbamoylmethyl-4-(triphenyl-methylthio) pyrrolidine | 130 mg | C(C=C)OC(=O)N1[C@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(N)=S | C29H30N2O2S2
